US06921767B2
(2-{4-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-phenyl}-cyclopropyl)-acetic acid
To a solution of 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethanol (WO 00/33838; 0.18 g, 1 mmole) and PPh3 (0.26 g, 1 mmole) in dry THF (4 mL) was added cyclopropyl phenol (0.1 g, 0.45 mmole) in dry THF (3 mL) and diisopropyl azodicarboxylate (0.17 g, 1 mmole). The reaction mixture was stirred at room temperature. After 18 hours, the mixture was concentrated under reduced pressure and purified on reverse phase HPLC. The ethyl ester of title compound (0.1 g, 45%) was dissolved in 3 mL 50% acetonitrile in water and LiOH (40 mg) was added. The reaction mixture was heated at 50° C. for one hour then acidified by adding TFA. The residue was purified on reverse phase HPLC to give the title compound (50 mg, 53%) as TFA salt: HRMS: (MH+)=353.1876. NMR (400 MHz, CD3OD) δ 0.76-0.84(??m, 1 H), 0.85-0.88 (m, 1 H), 1.20-1.24 (m, 1H), 1.68-1.71 (m, 1H), 1.90-1.96 (m, 2H), 2.28-2.40 (m, 2H), 2.80 (t, 2 H, J=6.24 Hz), 3.10 (t, 2 H, J=5.98 Hz), 3.48 (t, 2H, J=5.71 Hz), 4.22 (t, 2 H, J=5.97 Hz), 6.70 (d, 1 H, J=7.38 Hz), 6.76-6.79 (m, 2 H), 6.98-7.01 (m, 2 H), 7.57 (d, 1 H, J=7.38 Hz).

reactant | 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethanol | 1 mmole, 0.18 g | N1=C(C=CC=2CCCNC12)CCO | C10H14N2O
reactant | PPh3 | 1 mmole, 0.26 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | cyclopropyl phenol | 0.45 mmole, 0.1 g | C1(CC1)C1=C(C=CC=C1)O | C9H10O
reactant | diisopropyl azodicarboxylate | 1 mmole, 0.17 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2-{4-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-phenyl}-cyclopropyl)-acetic acid | 50 mg, 53% | N1=C(C=CC=2CCCNC12)CCOC1=CC=C(C=C1)C1C(C1)CC(=O)O | C21H24N2O3
